US09238640B2
To a solution of 2-amino-4,6-difluoro-benzamide (0.71 g, 4.10 mmol) and 2-methyl-pyridine-4-carbaldehyde (0.50 g, 4.10 mmol) in N,N-dimethylacetamide (10 mL) were added NaHSO3 (58.5 wt %, 1.00 g, 5.70 mmol) and p-TSA (0.16 g, 0.08 mmol). The reaction mixture was heated at 115° C. for 30 hours, then cooled to room temperature. The solvent was removed under reduced pressure. The crude compound was purified by column chromatography (silica gel 230-400 mesh; 5% methanol in dichloromethane) to afford 5,7-difluoro-2-(2-methyl-pyridin-4-yl)-3H-quinazolin-4-one as a light yellow solid. Yield: 0.30 g (26%).

reactant | 2-amino-4,6-difluoro-benzamide | 4.10 mmol, 0.71 g | NC1=C(C(=O)N)C(=CC(=C1)F)F | C7H6F2N2O
reactant | 2-methyl-pyridine-4-carbaldehyde | 4.10 mmol, 0.50 g | CC1=NC=CC(=C1)C=O | C7H7NO
reactant | NaHSO3 | 5.70 mmol, 1.00 g | OS(=O)[O-].[Na+]
reactant | p-TSA | 0.08 mmol, 0.16 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 5,7-difluoro-2-(2-methyl-pyridin-4-yl)-3H-quinazolin-4-one | FC1=C2C(NC(=NC2=CC(=C1)F)C1=CC(=NC=C1)C)=O | C14H9F2N3O
